US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-4-tert-butyldimethylsilyloxy-2-(2-methanesulfonyloxyethyl)pyrrolidine (63 g) and 4-formylimidazole (17.8 g) in N,N-dimethylformamide (300 ml) was added potassium tert-butoxide (20.8 g) by portions. Then, the mixture was stirred at 45° C. for 2 hours. Evaporation of the solvent gave a residue, which was dissolved in a mixture of ethyl acetate (1.5 l) and water (200 ml). The organic layer was separated, washed in turn with 1N hydrochloric acid (100 ml) and brine (300 ml×3), and dried over magnesium sulfate. Evaporation of the solvent gave an oil, which was chromatographed on silica gel (2 l) eluting with a mixture of hexane and ethyl acetate (1:1 to 1:2 to 0:1). The former active fractions were collected and concentrated in vacuo to give (2R,4R)-1-allyloxycarbonyl-4-tert-butyldimethylsilyloxy-2-{2-(5-formylimidazol-1-yl)ethyl}pyrrolidine (14.9 g).

reactant | (2R,4R)-1-allyloxycarbonyl-4-tert-butyldimethylsilyloxy-2-(2-methanesulfonyloxyethyl)pyrrolidine | 63 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCOS(=O)(=O)C | C17H33NO6SSi
reactant | 4-formylimidazole | 17.8 g | C(=O)C=1N=CNC1 | C4H4N2O
reactant | potassium tert-butoxide | 20.8 g | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 1.5 l | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | (2R,4R)-1-allyloxycarbonyl-4-tert-butyldimethylsilyloxy-2-{2-(5-formylimidazol-1-yl)ethyl}pyrrolidine | 14.9 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCN1C=NC=C1C=O | C20H33N3O4Si
